US06121307
2-(5-Fluoro-2-methoxy-phenoxy)ethylamine
A solution of 2-(5-fluoro-2-methoxy-phenoxy)ethylazide (3.97 g, 0.019 mol) and triphenylphosphine (5.95 g, 0.023 mol) in tetrahydrofuran (80 ml) and water (1.5 ml) was allowed to stir for 18 hours at room temperature. The solvent was removed under vacuum. Chromatography (ethyl acetate) removed triphenylphosphine and triphenylphosphine oxide and (25-50% methanol-ethyl acetate plus ammonium hydroxide) afforded 3.14 g (90%) of product as a clear oil. MS EI m/e 185 (M+).

reactant | 2-(5-fluoro-2-methoxy-phenoxy)ethylazide | 0.019 mol, 3.97 g | FC=1C=CC(=C(OCCN=[N+]=[N-])C1)OC | C9H10FN3O2
reactant | triphenylphosphine | 0.023 mol, 5.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
product | 2-(5-Fluoro-2-methoxy-phenoxy)ethylamine | 3.14 g, 90% | FC=1C=CC(=C(OCCN)C1)OC | C9H12FNO2
